US05449779
Preparation of N,N'-bis(methoxycarbonyl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)- 1,3-propanediamine.
83.2 g (0.88 mol) of methyl chlorocarbonate are reacted as described in Example 1 with 141 g (0.4 mol) of N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,3-propanediamine dissolved in 420 ml of water.

reactant | methyl chlorocarbonate | 0.88 mol, 83.2 g | C(OC)(=O)Cl | C2H3ClO2
reactant | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,3-propanediamine | 0.4 mol, 141 g | CC1(NC(CC(C1)NCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C21H44N4
solvent | water | 420 ml | O | H2O
product | N,N'-bis(methoxycarbonyl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)- 1,3-propanediamine | COC(=O)N(CCCN(C1CC(NC(C1)(C)C)(C)C)C(=O)OC)C1CC(NC(C1)(C)C)(C)C | C25H48N4O4
